US04820705
6-(2-p-Fluorobenzenesulphonamido-indan-5-yl)-4,5-dihydro-pyridazin-3(2H)-on
2.9 (12.6 mmol) of 6-(2-amino-indan-5-yl)-4,5-dihydropyridazin-3(2H)-one are dissolved in a mixture of 30 ml of dioxan and 10 ml of acetone, and 1.42 g (14 mmol) of triethylamine and 2.8 g of p-fluorobenzenesulphonyl chloride are added. After 2 hours, the mixture is evaporated, water is added to the residue, and the reaction product is filtered off with suction and recrystallised from glacial acetic acid.

reactant | 6-(2-amino-indan-5-yl)-4,5-dihydropyridazin-3(2H)-one | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C13H15N3O
reactant | triethylamine | 14 mmol, 1.42 g | C(C)N(CC)CC | C6H15N
reactant | p-fluorobenzenesulphonyl chloride | 2.8 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 6-(2-p-Fluorobenzenesulphonamido-indan-5-yl)-4,5-dihydro-pyridazin-3(2H)-on | FC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C19H18FN3O3S
